* source PROJECT_4
R_R3         0 N03259  817.2  
R_R5         N03465 VO  10k  
R_R1         N03335 N03304  24.49k  
R_R4         0 N03465  10k  
R_R2         N03259 VO  415.5  
V_VCC1         VCC1 0 5Vdc
X_U3         N03259 N03465 VCC1 VCC2 VO OPA134/BB
V_VCC2         0 VCC2 5Vdc
V_V4         N03335 0 DC 0Vdc AC 1Vac 
C_C1         N03304 N03259  47n  
C_C2         0 N03304  47n  
